US08003677B2
N-(3-Phenylpropyl)-2-[5-(2-bromo-5-methoxybenzoyl)-3,4,5,6-tetrahydro-1H-pyrrolo[3,4-c]-pyrrol-2-yl]thiazole-5-carboxamide
N-(3-Phenylpropyl)-2-(3,4,5,6-tetrahydro-1H-pyrrolo[3,4-c]pyrrol-2-yl)thiazole-5-carboxamide, trifluoroacetate (44.6 mg, 0.095 mmol) was reacted with 2-bromo-5-methoxybenzoic acid after activation with HATU analogously to example 3f. M+H+: 567.17.

reactant | N-(3-Phenylpropyl)-2-(3,4,5,6-tetrahydro-1H-pyrrolo[3,4-c]pyrrol-2-yl)thiazole-5-carboxamide | C1(=CC=CC=C1)CCCNC(=O)C1=CN=C(S1)N1CC=2CNCC2C1 | C19H22N4OS
reactant | trifluoroacetate | 0.095 mmol, 44.6 mg | FC(C(=O)[O-])(F)F
reactant | 2-bromo-5-methoxybenzoic acid | BrC1=C(C(=O)O)C=C(C=C1)OC | C8H7BrO3
reactant | HATU | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
product | N-(3-Phenylpropyl)-2-[5-(2-bromo-5-methoxybenzoyl)-3,4,5,6-tetrahydro-1H-pyrrolo[3,4-c]-pyrrol-2-yl]thiazole-5-carboxamide | C1(=CC=CC=C1)CCCNC(=O)C1=CN=C(S1)N1CC=2CN(CC2C1)C(C1=C(C=CC(=C1)OC)Br)=O | C27H27BrN4O3S
